US08278343B2
Preparation 58: 1-(4-Chloro-benzoyl)-3-[5-(4-chloro-phenyl)-pyrazin-2-yloxymethyl]-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 5-(4-chloro-phenyl)-pyrazin-2-ol (Preparation 25) and 1-(4-chloro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 13) to afford the racemate as a pale yellow solid (42 mg, 20%)

reactant | 5-(4-chloro-phenyl)-pyrazin-2-ol | ClC1=CC=C(C=C1)C=1N=CC(=NC1)O | C10H7ClN2O
reactant | 1-(4-chloro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)Cl)=O)CI | C15H17ClINO3
product | 1-(4-Chloro-benzoyl)-3-[5-(4-chloro-phenyl)-pyrazin-2-yloxymethyl]-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)Cl)=O)COC1=NC=C(N=C1)C1=CC=C(C=C1)Cl | C25H23Cl2N3O4
